US04265891
(±)-1-(Methylamino)-3-phenoxy-2-propanol
To a solution of 1,2-epoxy-3-phenoxypropane (15 g), in ethanol (50 ml) was added 25-30% methylamine in water (50 ml) and the mixture heated under reflux for 1 h. The ethanol was removed in vacuo and the residue acidified with 2 N hydrochloric acid. The aqueous solution was extracted with ether acetate then made alkaline with 2 N sodium hydroxide and extracted into ether. The combined ethereal extracts were dried (Na2SO4), filtered and evaporated to give a semi-solid (14.8 g). The product was distilled in vacuo to give the title compound as white crystals b.p. 110°/0.07 mm, m.p. 74°-77° (9 g).

reactant | 1,2-epoxy-3-phenoxypropane | 15 g | O1CC1COC1=CC=CC=C1 | C9H10O2
reactant | methylamine | CN | CH5N
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | (±)-1-(Methylamino)-3-phenoxy-2-propanol | 14.8 g | CNCC(COC1=CC=CC=C1)O | C10H15NO2
